US06008229
To a solution of 3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichloroaniline (6.08 g) in acetic acid (15 ml) was added 2,5-dimethoxytetrahydrofuran (1.87 g). The mixture was stirred at 90° C. for 1 hour and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluted with n-hexane-ethyl acetate to give 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole (5.82 g) as a pale yellow oil.

reactant | 3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichloroaniline | 6.08 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(N)C=CC1Cl)Cl | C23H25Cl2NOSi
reactant | 2,5-dimethoxytetrahydrofuran | 1.87 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole | 5.82 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C=CC=C1)Cl | C27H27Cl2NOSi
